US07846955B2
Intermediate 1: 2-Oxo-2-phenyl-N-prop-2-ynyl-acetamide
Oxalyl chloride (6.1 g, 48 mmol) was added to a solution of phenylglyoxylic acid (6.0 g, 40 mmol) and 3 drops of DMF in dry DCM (50 mL). The reaction mixture was stirred at RT for 3 h then the solvent was removed. The residue was taken up in dry DCM (50 mL) and the solution was cooled to 0° C. A mixture of propargyl amine (2.2 g, 40 mmol) and triethylamine (4.05 g, 40 mmol) was added cautiously over a period of 10 min then the mixture was allowed to warm to RT. Stirring was continued for 2.5 h then water (10 mL) was added. The mixture was washed with 1 M HCl, sat. sodium hydrogencarbonate (aq.), then brine. The organic phase was then dried (Na2SO4) and the solvent was removed. The residue was crystallized from cyclohexane to afford the product as a light brown solid.

reactant | Oxalyl chloride | 48 mmol, 6.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | phenylglyoxylic acid | 40 mmol, 6.0 g | C1(=CC=CC=C1)C(C(=O)O)=O | C8H6O3
reactant | propargyl amine | 40 mmol, 2.2 g | C(C#C)N | C3H5N
reactant | triethylamine | 40 mmol, 4.05 g | C(C)N(CC)CC | C6H15N
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 2-Oxo-2-phenyl-N-prop-2-ynyl-acetamide | O=C(C(=O)NCC#C)C1=CC=CC=C1 | C11H9NO2
